US03953429
a. 2α, 3α-Epoxy-17β-methoxycarbonyl-5α-androstane
A solution of 17β-methoxycarbonyl-5α-androst-2-ene (7.0 g.,) and 85% m-chloroperbenzoic acid (5.0 g.) in chloroform (125 ml.) was stirred for 1.5 hr. at room temperature and then diluted with chloroform (125 ml.). This solution was washed with aqueous 10% sodium bicarbonate and water prior to drying. Filtration and evaporation afforded a solid (8.075 g.) which was recrystallised from methylene chloride/cyclohexane to afford the pure title compound; [α]D + 67°, (c, 0.8).

reactant | 17β-methoxycarbonyl-5α-androst-2-ene | 7.0 g | COC(=O)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3CC=CC[C@]3(C)[C@H]1CC2 | C21H32O2
reactant | m-chloroperbenzoic acid | 5.0 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 125 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 125 ml | C(Cl)(Cl)Cl | CHCl3
product | 2α, 3α-Epoxy-17β-methoxycarbonyl-5α-androstane | O1[C@H]2[C@@H]1C[C@@H]1CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]1(C2)C)C(=O)OC | C21H32O3
